US04920120
2-(3-Chloro-2,4,5-trifluorophenyl)-4,4-dimethyl-2-oxazoline
A solution of 7.6 ml (54.2 mmol) of diisopropylamine in 100 ml of dry THF was cooled to -78° C. under argon, treated with 20.5 ml (47.2 mmol) of 2.3M n-butyllithium, and stirred for 15 minutes. To this solution was added a solution of 10.3 g (45.0 mmol) of 2-(2,4,5-trifluorophenyl)-4,4-dimethyl-2-oxazoline in 100 ml of dry THF. The reaction mixture was stirred at -78° C. for 45 minutes. To this mixture was added 26.5 g (100 mmol) of hexachloroacetone, and the solution was warmed to room temperature. Water was added; the organic phase was washed with water, 1N hydrochloric acid, and 5% sodium bicarbonate, and was dried over magnesium sulfate. Concentration gave a dark oil which was chromatographed on silica gel to give 7.05 g of the title compound as a yellow oil.

reactant | diisopropylamine | 54.2 mmol, 7.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 47.2 mmol, 2.3M, 20.5 ml | C(CCC)[Li]
reactant | 2-(2,4,5-trifluorophenyl)-4,4-dimethyl-2-oxazoline | 45.0 mmol, 10.3 g | FC1=C(C=C(C(=C1)F)F)C=1OCC(N1)(C)C | C11H10F3NO
reactant | hexachloroacetone | 100 mmol, 26.5 g | ClC(C(=O)C(Cl)(Cl)Cl)(Cl)Cl | C3Cl6O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-(3-Chloro-2,4,5-trifluorophenyl)-4,4-dimethyl-2-oxazoline | 7.05 g | ClC=1C(=C(C=C(C1F)F)C=1OCC(N1)(C)C)F | C11H9ClF3NO
